US04232170
Catalytic Hydrogenation of Trifluoroethyl Trifluoroacetate
After five cycles similar to the one described above, the gas chromatographic analysis showed only 80% conversion to trifluoroethanol and the catalyst was then regenerated in the following manner. The pressure tube containing the catalyst residue (originally 0.03 mmol) was charged with 20 mg (0.25 mmol) of NaBH(OCH3)3, in a dry box. Tetrahydrofuran (3 ml) was distilled into the tube under vacuum and the solution stirred at room temperature for one hour. The solvent and other volatiles were removed in vacuo and the residue evacuated to dryness. The pressure tube was then charged with toluene (3 ml) and 1.1 gram (5.7 mmols) of ester and the hydrogenation was conducted as described in part (a).

reactant | trifluoroethanol | C(C(F)(F)F)O | C2H3F3O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | Trifluoroethyl Trifluoroacetate | FC(C(=O)OCC(F)(F)F)(F)F | C4H2F6O2
